US09334464B2
Oxalyl chloride (10 ml, 116 mmol) was added dropwise to a stirred solution of (±)-(2,4-dimethylcyclohex-3-en-1-yl)methanol (32.48 g, 233 mmol, cis/trans ca. 4:1) in pyridine (270 ml) at 0° C. over a period of 15 min. The solution was allowed to warm up to room temperature and, after 21 h, was poured onto cold water, extracted with diethyl ether (2×), H2SO4 (10%) (2×), NaHCO3 (sat.) and NaCl (sat.). The organic layer was dried (Na2SO4) and concentrated. Column chromatography (SiO2, heptane/ether 8:2) gave 32.85 g (85%) of (±)-bis[(2,4-dimethyl-3-cyclohexen-1-yl)methyl]oxalate as a slightly yellow oil (mixture of cis/trans-isomers ca. 4:1).

reactant | Oxalyl chloride | 116 mmol, 10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (±)-(2,4-dimethylcyclohex-3-en-1-yl)methanol | 233 mmol, 32.48 g | CC1C(CCC(=C1)C)CO | C9H16O
reactant | water | O | H2O
solvent | pyridine | 270 ml | N1=CC=CC=C1 | C5H5N
product | (±)-bis[(2,4-dimethyl-3-cyclohexen-1-yl)methyl]oxalate | 32.85 g, 85% | CC1C(CCC(=C1)C)COC(C(=O)OCC1C(C=C(CC1)C)C)=O | C20H30O4
